subckt SMC VINN VINP VOUT IBIAS VDD VSS
NM4 (VOUT IBIAS VSS VSS) mn18 w=(1u) l=180n //// Load transistor, 2nd stage
NM0 (net27 VINN net26 VSS) mn18 w=(1u) l=180n //// Input transistor, 1st stage ``NM1``
NM3 (IBIAS IBIAS VSS VSS) mn18 w=(1u) l=180n //// Bias transistor
NM2 (net26 IBIAS VSS VSS) mn18 w=(1u) l=180n //// Current transistor, 1st stage
NM1 (net28 VINP net26 VSS) mn18 w=(1u) l=180n //// Input transistor, 1st stage ``NM0``
PM2 (VOUT net28 VDD VDD) mp18 w=(1u) l=180n //// Input transistor, 2nd stage    
PM1 (net27 net27 VDD VDD) mp18 w=(1u) l=180n //// Load transistor, 1st stage ``PM0``
PM0 (net28 net27 VDD VDD) mp18 w=(1u) l=180n //// Load transistor, 1st stage ``PM1``
C0 (net28 VOUT) capacitor c=1p //// Miller cap
ends SMC