subckt TCFC VINN VINP VOUT IBIAS VDD VSS
    PM11 (net047 IBIASP1 VDD VDD) mp18 w=(1u) l=1u ////Bias Transistor, should not change
    PM10 (IBIASP1 IBIASP2 net047 VDD) mp18 w=(1u) l=1u ////Bias Transistor, should not change
    PM18 (net70 net036 VDD VDD) mp18 w=(1u) l=1u //// *Load* *gm1* ``PM19``
    PM19 (net036 net036 VDD VDD) mp18 w=(1u) l=1u //// *Load* *gm1* ``PM18``
    PM13 (net47 IBIASP2 net044 VDD) mp18 w=(1u) l=1u //// *Load* *gm2*  *gmt-Input*
    PM8 (net039 net70 VDD VDD) mp18 w=(1u) l=1u //// *Input* *gm2*
    PM7 (net044 IBIASP1 VDD VDD) mp18 w=(1u) l=1u //// *Load* *gm2* 
    PM2 (VOUT net70 VDD VDD) mp18 w=(1u) l=1u //// *Load* *gm3* 
    NM24 (net039 IBIAS net43 VSS) mn18 w=(1u) l=1u //// *Load* *gm2* 
    NM23 (net045 IBIAS2 VSS VSS) mn18 w=(1u) l=1u ////Bias Transistor, should not change
    NM22 (IBIASP2 IBIAS net045 VSS) mn18 w=(1u) l=1u ////Bias Transistor, should not change
    NM21 (net43 IBIAS2 VSS VSS) mn18 w=(1u) l=1u //// *Load* *gm2* 
    NM17 (net036 VINN net035 VSS) mn18 w=(1u) l=1u //// *Input* *gm1* ``NM18``
    NM18 (net70 VINP net035 VSS) mn18 w=(1u) l=1u //// *Input* *gm1* ``NM17``
    NM19 (net035 IBIAS2 VSS VSS) mn18 w=(1u) l=1u //// *Current tail* *gm1*
    NM9 (net47 net039 VSS VSS) mn18 w=(1u) l=1u //// *Load* *gm2* 
    NM6 (net049 IBIAS2 VSS VSS) mn18 w=(1u) l=1u ////Bias Transistor, should not change
    NM4 (VOUT net47 VSS VSS) mn18 w=(1u) l=1u //// *Input* *gm3* 
    NM8 (net43 net039 VSS VSS) mn18 w=(1u) l=1u //// *Load* *gm2* 
    NM5 (IBIAS2 IBIAS net049 VSS) mn18 w=(1u) l=1u ////Bias Transistor, should not change
    C3 (net044 VOUT) capacitor c=2p ////Miller cap 2
    C0 (net70 VOUT) capacitor c=2p ////Miller cap 1
    R1 (IBIASP1 IBIASP2) resistor r=100K ////Bias Resistor, should not change
    R0 (IBIAS IBIAS2) resistor r=100K ////Bias Resistor, should not change
ends TCFC
